US04895860
Step (2) Preparation of 5-Bromo-2-methylbenzthiophene
According to the procedure of W. K. Anderson, J. Chem. Soc., Perkin, 1, 1 (1976), a mixture of 3-(4-bromothiophenoxy)-2-chloro-1-propene (37.4 g, 0.142 mol) and N,N-diethylaniline (180 mL) was heated to 210°-215° C. for 2 days, cooled, and diluted with ether. The ethereal layer was washed with 10% HCl (3×200 mL), dried (MgSO4), and concentrated. Purification by column chromatography (eluant: hexane) gave 15.0 g (46%) of product as a white solid.

reactant | 3-(4-bromothiophenoxy)-2-chloro-1-propene | 0.142 mol, 37.4 g | BrC1=CC=C(SCC(=C)Cl)C=C1 | C9H8BrClS
reactant | N,N-diethylaniline | 180 mL | C(C)N(C1=CC=CC=C1)CC | C10H15N
solvent | ether | CCOCC | C4H10O
product | 5-Bromo-2-methylbenzthiophene | 15.0 g, 46% | BrC=1C=CC2=C(C=C(S2)C)C1 | C9H7BrS
